US06949579B2
10 cm3 of trimethylsilyl iodide are added to 0.4 g of N-[6-[3-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide, described previously, and the mixture is refluxed for 3 hours. 50 cm3 of methanol are then added and refluxing is continued for 15 minutes. The reaction medium is concentrated to dryness under reduced pressure (2 kPa; 50° C.), 50 cm3 of ethyl acetate are added and the organic phase is washed with 3×50 cm3 of 10% sodium thiosulphate solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 50° C.). The crude product obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a cyclohexane/ethyl acetate mixture (50/50 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.); 0.18 g of N-[6-(3-hydroxyphenyl)-1H-indazol-3-yl]butanamide is obtained in the form of a grey powder melting at 188° C.

reactant | trimethylsilyl iodide | 10 cm3 | C[Si](C)(C)I | C3H9ISi
reactant | N-[6-[3-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide | 0.4 g | C1(=CC=CC=C1)COC=1C=C(C=CC1)C1=CC=C2C(=NNC2=C1)NC(CCC)=O | C24H23N3O2
solvent | methanol | 50 cm3 | CO | CH4O
product | N-[6-(3-hydroxyphenyl)-1H-indazol-3-yl]butanamide | 0.18 g | OC=1C=C(C=CC1)C1=CC=C2C(=NNC2=C1)NC(CCC)=O | C17H17N3O2
